US04913728
4-Tert-butylthio-2-bromoaniline
To a cold (dry ice - acetone bath) stirred solution of 4-tert-butylthioaniline (25.6 g., 0.14 mole) in methylene chloride is added a slurry of N-bromosuccinimide (25.0 g., 0.14 mole) in methylene chloride in three equal portions. The reaction is allowed to come to room temperature with stirring overnight. The methylene chloride solution is washed with dilute aqueous sodium carbonate and water and then evaporated to give the desired product as a brown oil.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 4-tert-butylthioaniline | 0.14 mole, 25.6 g | C(C)(C)(C)SC1=CC=C(N)C=C1 | C10H15NS
reactant | N-bromosuccinimide | 0.14 mole, 25.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Tert-butylthio-2-bromoaniline | C(C)(C)(C)SC1=CC(=C(N)C=C1)Br | C10H14BrNS
